US07851634B2
c) (4-Methoxybutyl)triphenylphosphonium iodide
10.70 g of 4-methoxybutyl iodide are taken up in 80 ml of acetonitrile, 14.43 g of triphenylphosphine are added and the reaction solution is heated to reflux for 16 hours. The reaction solution is concentrated by evaporation and the residue is admixed with diethyl ether. The suspension is stirred at room temperature for 30 minutes and the precipitated solid is filtered off and dried. The title compound is used without further purification for the next stage.

reactant | 4-methoxybutyl iodide | 10.70 g | COCCCCI | C5H11IO
reactant | triphenylphosphine | 14.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | (4-Methoxybutyl)triphenylphosphonium iodide | [I-].COCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H26OP.HI/c1-24-19-11-12-20-25(21-13-5-2-6-14-21,22-15-7-3-8-16-22)23-17-9-4-10-18-23;/h2-10,13-18H,11-12,19-20H2,1H3;1H/q+1;/p-1
